data/mechanisms/records/IMS4-EQ4.19.json
{"mechanism_id": "IMS4-EQ4.19", "species": [{"species_id": "acetone_radical_cation", "mapped_smiles": "[CH3:1][C:2](=[O+:3])[CH3:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyl_cation", "mapped_smiles": "[CH3+:1]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "acetyl_radical", "mapped_smiles": "[CH3:4][C:2]=[O:3]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["acetone_radical_cation"]}, {"state_id": "state_products", "species_ids": ["methyl_cation", "acetyl_radical"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 64, "equation": "4.19", "figure": null, "panel": null, "section": "4.7"}, "confidence": 0.8, "curator_note": "Eq 4.19, OE+. inductive cleavage of a doubly-bonded heteroatom system R2C=Y+. -> R+ + R-C.=Y (charge migrates to the departing alkyl; complementary to alpha-cleavage which keeps the charge as R-C#Y+ acylium). Book draws 2 resonance fishhooks depicting the OE+. <-> distonic R2C(+)-Y(.) resonance (one on the left structure at Y, one inside the parenthetical form at C); it does NOT draw the fragmentation arcs. The 2 encoded moves are the implicit cleavage electron flow (both from the breaking C1-C2 sigma bond: one electron to the acyl carbon C2 giving its radical, one to Y=O3 pairing off its odd electron), not drawn as cleavage arcs on the page. Instantiated as the acetone radical cation (Y=O), O-localized charge/radical."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 58.0419, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_R_cation", "species_id": "methyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 15.0235, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T07:02:57.650407Z", "modified_at": "2026-07-24T07:02:57.650408Z"}}
